US04751232
Preparation of 3-acetamido-2,4-dimethylphenol
1-Acetamido-3-amino-2,6-dimethylbenzene (4.77 g; 26.8 mmol) was dissolved in a diluted acid prepared from concentrated sulfuric acid (3 ml) and water (30 ml). To the resulting solution was added dropwise a solution of sodium nitrite (2.40 g; 34.8 mmol) in water (5 ml) in a manner such that the temperature of the reaction mixture did not exceed 10° C. Then, the mixture was stirred under ice-cooling for 15 minutes. After addition of 1.00 g of urea (16.6 mmol), the mixture was dropwise added gradually into 75 ml of boiling water and the whole mixture was refluxed for 30 minutes. After cooling, sodium chloride was added, followed by extraction with ether and chloroform. The organic layer was washed with water and dried over magnesium sulfate (dehydration), and the solvent was distilled off to give 3.2 g (67%) of the title compound as colorless needles, m.p. 190°-195° C.

reactant | 1-Acetamido-3-amino-2,6-dimethylbenzene | 26.8 mmol, 4.77 g | C(C)(=O)NC1=C(C(=CC=C1C)N)C | C10H14N2O
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 34.8 mmol, 2.40 g | N(=O)[O-].[Na+]
reactant | urea | 16.6 mmol, 1.00 g | NC(=O)N | CH4N2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 75 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 3-acetamido-2,4-dimethylphenol | 3.2 g, 67% | C(C)(=O)NC=1C(=C(C=CC1C)O)C | C10H13NO2
